US04265815
(B) (11β)-17-(Ethylsulfonyl)-16-methoxy-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one
A suspension of (11β)-16-chloro-17-(ethylsulfonyl)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one (1.29 g; prepared as described above) in anhydrous methanol (190 ml) containing sodium methoxide (800 mg) is refluxed for 3 hours. The resulting solution is concentrated in vacuo, diluted with water, saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate extract is washed with water, dried (anhydrous Na2SO4) and evaporated to afford the crude material (1.2 g). This is chromatographed over silica gel (60 g) to isolate the title compound (505 mg), melting point 288°-289° C., after crystallization from acetone-hexane.

reactant | (11β)-16-chloro-17-(ethylsulfonyl)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one | 1.29 g | ClC1=C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)S(=O)(=O)CC | C21H26ClFO4S
reactant | sodium methoxide | 800 mg | C[O-].[Na+]
solvent | methanol | 190 ml | CO | CH4O
product | (11β)-17-(Ethylsulfonyl)-16-methoxy-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one | 505 mg | C(C)S(=O)(=O)C=1[C@]2(C)[C@@H](CC1OC)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C22H29FO5S
